US07115611B2
To a dry ice chilled solution of 0.75 g (2.57 mmol) 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbaldehyde in 5 ml THF was dropped a solution of 1.11 ml (3.33 mmol) 3M methylmagnesium bromide in 2.5 ml THF. The reaction mixture was allowed to warm to RT and it was stirred for 15 min at this temperature. The reaction mixture was then taken up in ether and washed with 1N HCl and water. The crude product was purified by chromatography over silica gel with AcOEt/dichloromethane 1:6, to give 384 mg of pure [rac]-1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol.

reactant | dry ice | C(=O)=O | CO2
reactant | 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbaldehyde | 2.57 mmol, 0.75 g | C1(CC1)C1=NC(=NC=C1C=O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3N2O
reactant | methylmagnesium bromide | 3.33 mmol, 3M, 1.11 ml | C[Mg]Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [rac]-1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol | 384 mg | C1(CC1)C1=NC(=NC=C1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O
